US04401598
1.0 mole of 3-chloropropyltriethoxysilane (Cl-PTES) and 1.1 moles of sodium azide were heated together in a 500 ml capacity three neck flask made of glass and equipped with reflux condenser and magnetic stirrer and in the presence of 5 mole percent of a catalyst on the basis of a mixture of tris(n-C8 to C10 alkyl)methyl ammonium chloride with stirring for 3 hours at 140° C. The rectification subsequently carried out thereon at reduced pressure gave the 3-azidopropyltriethoxysilane (N3 -PTES) in a yield of 95 weight percent. The N3 -PTES had the following properties:

reactant | 3-chloropropyltriethoxysilane | 1.0 mole | ClCCC[Si](OCC)(OCC)OCC | C9H21ClO3Si
reactant | sodium azide | 1.1 moles | [N-]=[N+]=[N-].[Na+]
product | 3-azidopropyltriethoxysilane | N(=[N+]=[N-])CCC[Si](OCC)(OCC)OCC | C9H21N3O3Si
